US08278336B2
4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H,1′H-[1,2′]bipyridinyl-6′-one
A well stirred mixture of 20 mg (0.041 mmol) 1-[4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydroimidazo[4,5-b]pyridin-2-one and 100 mg (0.865 mmol) pyridine hydrochloride was kept in a melt for 7 min using a hot air blower. After the reaction mixture had cooled it was dissolved in DMF and purified by preparative HPLC. The fractions containing the product were combined and lyophilised.

reactant | 1-[4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-6′-methoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.041 mmol, 20 mg | FC=1C=C2CCN(C2=CC1)C(=O)C1=CC(=NC(=C1)OC)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H25FN6O3
reactant | pyridine hydrochloride | 0.865 mmol, 100 mg | Cl.N1=CC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
product | 4′-(5-fluoro-2,3-dihydroindole-1-carbonyl)-4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H,1′H-[1,2′]bipyridinyl-6′-one | FC=1C=C2CCN(C2=CC1)C(=O)C=1C=C(NC(C1)=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C25H23FN6O3
